US06008226
A mixture of 1-ethyl-3-methyl-4-chloro-1H-pyrazolo[3,4-b] quinoline (1.0 g, 4.3 mmol), DMSO (3 ml) and benzylamine (0.98 ml, 9 mmol) was heated at 80° C. overnight. The reaction mixture was poured into water (100 ml), then NH4OH (0.5 ml) was added. The mixture was extracted with CH2Cl2 (200 ml) and the CH2Cl2 was concentrated to about 20 ml and then this solution was purified by column chromatography on silica gel, followed by high pressure liquid chromatography eluting with 20% ethyl acetate/hexane to afford the product as the free base. The free base was dissolved in CH2Cl2 (20 ml) and treated with ethereal HCl. The mixture was evaporated and the residue was crystallized from ether to afford 0.9 g of 1-ethyl-3-methyl-N-(phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine·HCl, as an off white solid, m.p. 228-231° C.

reactant | 1-ethyl-3-methyl-4-chloro-1H-pyrazolo[3,4-b] quinoline | 4.3 mmol, 1.0 g | C(C)N1N=C(C=2C1=NC1=CC=CC=C1C2Cl)C | C13H12ClN3
reactant | benzylamine | 9 mmol, 0.98 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | NH4OH | 0.5 ml | [NH4+].[OH-]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 1-ethyl-3-methyl-N-(phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine·HCl | 0.9 g | C(C)N1N=C(C=2C1=NC1=CC=CC=C1C2NCC2=CC=CC=C2)C.Cl | InChI=1S/C20H20N4.ClH/c1-3-24-20-18(14(2)23-24)19(16-11-7-8-12-17(16)22-20)21-13-15-9-5-4-6-10-15;/h4-12H,3,13H2,1-2H3,(H,21,22);1H
